US06495546B1
A solution of 4-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-one (500 mg) and benzylamine (0.29 ml) in the presence of catalytic amounts of p-toluenesulfonic acid monohydrate in toluene (5 ml) was refluxed for 2 hours to remove water as the toluene azeotrope, and then the mixture was evaporated in vacuo. To the solution of the residue in methanol (5 ml) was added sodium borohydride (99 mg) under nitrogen at 5° C., and the mixture was stirred at room temperature for 12 hours. After the resulting mixture was evaporated in vacuo, the residue was dissolved into ice-cold water and ethyl acetate. After separation, the organic layer was washed successively with water and brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1 to 1:1) to give N-benzyl-(4-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine (660 mg).

reactant | 4-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-one | 500 mg | COC1=CC=CC=2CCCC(CC21)=O | C12H14O2
reactant | benzylamine | 0.29 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-(4-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine | 660 mg | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=CC=C2OC | C19H23NO
